US04963479
4-Chloro-1-naphthol, 9 g, in 100 ml acetic acid was cooled to 15° C. and 3.25 ml concentrated nitric acid in 20 ml acetic acid was added dropwise over 15 minutes. After 1 hour, the reaction mixture was poured into 600 ml chilled water. The precipitate was filtered off, washed with water and dried to give a crude product. The product was partially purified by extracting with boiling hexane to obtain 3.5 g. Further purification was accomplished by dissolving in 10 ml chloroform, absorbing on 15 g silica and loading on a column of 90 g silica gel, equilibrated with hexane. The product was eluted with 5% ethyl acetate in hexane to give 0.8 g of 4-chloro-2-nitro-1-naphthol after evaporation, m.p. 142°-3° (d).

reactant | 4-Chloro-1-naphthol | ClC1=CC=C(C2=CC=CC=C12)O | C10H7ClO
reactant | nitric acid | 3.25 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-2-nitro-1-naphthol | 0.8 g | ClC1=CC(=C(C2=CC=CC=C12)O)[N+](=O)[O-] | C10H6ClNO3
